US04316985
5.0 g of methyl rac-1,2,3,4-tetrahydro-2-hydroxy-5,8-dimethoxynaphthalene-2-carboxylate were dissolved in 50 ml of pyridine. The solution was cooled to 0° C. and 10 ml of acetic anhydride and 150 mg of 4-dimethylaminopyridine were added. After standing at 0° C. for 24 hours, the mixture was poured into 250 ml of water. The mixture obtained was extracted with three 100 ml portions of ethyl acetate and the combined ethyl acetate extracts were washed with 2-N hydrochloric acid until the washings were acidic, then with 200 ml of water, 200 ml of dilute aqueous potassium hydrogen carbonate and 200 ml of brine. After drying, the solvent was evaporated to give a white crystalline residue. Recrystallisation from diethyl ether gave 5.6 g (96.5%) of methyl rac-2-acetoxy-1,2,3,4-tetrahydro-5,8-dimethoxynaphthalene-2-carboxylate in the form of colourless crystals of melting point 155.5°-156° C.

reactant | methyl rac-1,2,3,4-tetrahydro-2-hydroxy-5,8-dimethoxynaphthalene-2-carboxylate | 5.0 g | OC1(CC2=C(C=CC(=C2CC1)OC)OC)C(=O)OC | C14H18O5
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 250 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 150 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl rac-2-acetoxy-1,2,3,4-tetrahydro-5,8-dimethoxynaphthalene-2-carboxylate | 5.6 g, 96.5% | C(C)(=O)OC1(CC2=C(C=CC(=C2CC1)OC)OC)C(=O)OC | C16H20O6
